US07767691B2
Preparation of 4-[cyano(diphenyl)methyl]-1-{2-[(phenylmethyl)oxy]ethyl}-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 24, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)acetonitrile (0.044 g, 0.152 mmol) and 2-bromoethyl phenylmethyl ether (0.040 mL, 0.253 mmol) in 2CH3CN/3CHCl3 (3.5 mL) were reacted to give the desired product (0.0281 g, 37.0%). EI-MS m/z 423 (M+) Rt (2.02 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)acetonitrile | 0.152 mmol, 0.044 g | N12CCC(CC1)(C2)C(C#N)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H20N2
reactant | 2-bromoethyl phenylmethyl ether | 0.253 mmol, 0.040 mL | C1(=CC=CC=C1)COCCBr | C9H11BrO
product | 4-[cyano(diphenyl)methyl]-1-{2-[(phenylmethyl)oxy]ethyl}-1-azoniabicyclo[2.2.1]heptane bromide | 0.0281 g, 37.0% | [Br-].C(#N)C(C12CC[N+](CC1)(C2)CCOCC2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C29H31N2O.BrH/c30-23-29(26-12-6-2-7-13-26,27-14-8-3-9-15-27)28-16-18-31(24-28,19-17-28)20-21-32-22-25-10-4-1-5-11-25;/h1-15H,16-22,24H2;1H/q+1;/p-1
